US04150135
A. N-(2-Furylethyl)-4a-(m-methoxyphenyl)-1,3-diketo-cis-decahydroisoquinoline
A solution of 5.0 g (18.5 mmoles) of 4a-(m-methoxyphenyl)-1,3-diketo-trans-decahydroisoquinoline in 100 ml of anhydrous dimethylformamide was added to a stirred suspension of 1.4 g (28 mmoles) of 50% sodium hydride in mineral oil (washed with pentane) in 75 ml of anhydrous dimethylformamide heated at 50° under nitrogen. The mixture was heated at 90° for 2 hours, then cooled to 35°. A solution of 7.1 g (37 mmoles) of freshly prepared 2-furylethyl mesylate (prepared according ot the procedure of Crossland and Servis, J. Org. Chem., 35, 3195 (1970)) in 10 ml of anhydrous dimethylformamide was added and the reaction mixture heated at 90° overnight. It was the cooled and poured into ice-water, and extracted with ether. Evaporation of the ether gave an oil which was purified by column chromatography (Silicar CC-7, eluting with acetone-benzene). The major fraction was identified as N-(2-furylethyl)-4a-(m-methoxyphenyl)-1,3-diketo-cis-decahydroisoquinoline

reactant | 4a-(m-methoxyphenyl)-1,3-diketo-trans-decahydroisoquinoline | 18.5 mmoles, 5.0 g | COC=1C=C(C=CC1)[C@@]12CC(NC([C@@H]2CCCC1)=O)=O | C16H19NO3
reactant | sodium hydride | 28 mmoles, 1.4 g | [H-].[Na+]
reactant | pentane | CCCCC | C5H12
reactant | 2-furylethyl mesylate | S(C)(=O)(=O)OCCC=1OC=CC1 | C7H10O4S
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(2-Furylethyl)-4a-(m-methoxyphenyl)-1,3-diketo-cis-decahydroisoquinoline | O1C(=CC=C1)CCN1C([C@H]2CCCC[C@]2(CC1=O)C1=CC(=CC=C1)OC)=O | C22H25NO4
